US08334301B2
1-[5-chloro-1-(4-fluorobenzyl)-2-phenyl-1H-imidazol-4-yl]-N-methylmethanamine oxalate
To a solution of 1-[1-(4-fluorobenzyl)-2-phenyl-1H-imidazol-4-yl]-N-methylmethanamine dihydrochloride (100 mg) in dimethylformamide was added N-chlorosuccinimide (43 mg) and the mixture was stirred at room temperature for 3 hr. Water and saturated sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent:ethyl acetate-methanol=19:1→3:2), a solution of oxalic acid (25 mg) in ethyl acetate (5 mL) was added, and the mixture was crystallized to give the title compound as colorless crystals (yield 20 mg, yield 18%).

reactant | 1-[1-(4-fluorobenzyl)-2-phenyl-1H-imidazol-4-yl]-N-methylmethanamine dihydrochloride | 100 mg | Cl.Cl.FC1=CC=C(CN2C(=NC(=C2)CNC)C2=CC=CC=C2)C=C1
reactant | N-chlorosuccinimide | 43 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[5-chloro-1-(4-fluorobenzyl)-2-phenyl-1H-imidazol-4-yl]-N-methylmethanamine oxalate | yield 20 mg, yield 18% | C(C(=O)O)(=O)O.ClC1=C(N=C(N1CC1=CC=C(C=C1)F)C1=CC=CC=C1)CNC | InChI=1S/C18H17ClFN3.C2H2O4/c1-21-11-16-17(19)23(12-13-7-9-15(20)10-8-13)18(22-16)14-5-3-2-4-6-14;3-1(4)2(5)6/h2-10,21H,11-12H2,1H3;(H,3,4)(H,5,6)
